US07618990B2
A portion of 4-[4-(4-Bromo-phenyl)-thiazol-2-ylamino]-cyclohexanecarboxylic acid (50 mg, 0.13 mmol) was dissolved in dioxane (10 mL). Carbonyl diimidazole (26 mg, 0.16 mmol) was added and the mixture was heated to 100° C. for 16 h. The mixture was concentrated and chromatographed with 10% acetone in hexane to give 32 mg of 2-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-2-azabicyclo[2.2.2]octan-3-one.

reactant | 4-[4-(4-Bromo-phenyl)-thiazol-2-ylamino]-cyclohexanecarboxylic acid | 0.13 mmol, 50 mg | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1CCC(CC1)C(=O)O | C16H17BrN2O2S
reactant | Carbonyl diimidazole | 0.16 mmol, 26 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-2-azabicyclo[2.2.2]octan-3-one | 32 mg | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C2CCC(C1=O)CC2 | C16H15BrN2OS
